US07141575B2
6-(5-Methyl-2-furyl)-5-nitropyrimidine-2,4-diamine
A solution of 6-chloro-5-nitropyrimidine-2,4-diamine (10 g, 60% pure, 32 mmol) in THF (300 mL) was treated with saturated aq NaHCO3 (75 mL), 5-methylfuran-2-boronic acid (7.33 g, 0.058 mol) and Pd(PPh3)4 (1 g, 0.865 mmol) and refluxed with vigorous stirring under argon overnight. The mixture was cooled to room temperature, diluted with EtOAc (400 mL) and water (300 mL), filtered to remove insoluble material and the filtrate was extracted with EtOAc (2×100 mL). The combined organic phase was dried (MgSO4), concentrated in vacuo and the resulting solid triturated with dichloromethane and filtered to give the title compound (6 g, 72%) as a yellow solid; mp 196.3–196.9° C.; IR νmax (Nujol)/cm−1 3442, 3169, 2930, 1629, 1463, 1377, 1027, and 790; NMR δH (400 MHz, DMSO) 7.40 (2H, br s), 7.09 (2H, br s), 6.87 (1H, dd, J 0.5, 3.2 Hz), 6.26 (2H, dd, J 1.0, 3.3 Hz) and 2.28 (3H, s).

reactant | 6-chloro-5-nitropyrimidine-2,4-diamine | 32 mmol, 10 g | ClC1=C(C(=NC(=N1)N)N)[N+](=O)[O-] | C4H4ClN5O2
reactant | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
reactant | 5-methylfuran-2-boronic acid | 0.058 mol, 7.33 g | CC1=CC=C(O1)B(O)O | C5H7BO3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
solvent | water | 300 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.865 mmol, 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(5-Methyl-2-furyl)-5-nitropyrimidine-2,4-diamine | 6 g, 72% | CC1=CC=C(O1)C1=C(C(=NC(=N1)N)N)[N+](=O)[O-] | C9H9N5O3
